US04224441
In water (5 ml) are dissolved 7β-(2-imino-4-thiazolin-4-yl)acetamido-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]-methyl-3-cephem-4-carboxylic acid (313 mg), 5-mercapto-1-[2-(N,N-dimethylamino)ethyl]-1H-tetrazole (113 mg) and sodium hydrogen carbonate (42 mg) and the resultant solution is heated at 55° C. for 60 minutes. The reaction solution is adjusted its pH to 5.8 and purified by column chromatography on Amberlite XAD-2 and the fractions rich in the desired product are pooled and lyophilized. The procedure provides 7β-(2-imino-4-thiazolin-4-yl)acetamido-3-{1-[2-(N,N-dimethylamino)ethyl]-1H-tetrazol-5-yl}thiomethyl-3-cephem-4-carboxylic acid.

reactant | 7β-(2-imino-4-thiazolin-4-yl)acetamido-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]-methyl-3-cephem-4-carboxylic acid | 313 mg | N=C1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(C(S2)C)OC(C2=C(C=CC=C2)S(NC(=O)OCC)(=O)=O)=O)C(=O)O)C1=O | C23H23N5O10S3
reactant | 5-mercapto-1-[2-(N,N-dimethylamino)ethyl]-1H-tetrazole | 113 mg | SC1=NN=NN1CCN(C)C | C5H11N5S
reactant | sodium hydrogen carbonate | 42 mg | C(O)([O-])=O.[Na+]
solvent | water | 5 ml | O | H2O
product | 7β-(2-imino-4-thiazolin-4-yl)acetamido-3-{1-[2-(N,N-dimethylamino)ethyl]-1H-tetrazol-5-yl}thiomethyl-3-cephem-4-carboxylic acid | N=C1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)O)C1=O | C18H23N9O4S3
